US08383644B2
(S)-3-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-2-{[(3S,8S)-3-(4-phenoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid
(3S,8S)-3-(4-Phenoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (10 mg), (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (8 mg), EDC (5 mg), and HOBt (3 mg) were suspended in 5 mL DCM and NMM (0.009 mL) added. The reaction mixture was stirred at room temperature for 6 hours and directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound (9 mg). LCMS (m/z): 775.

reactant | (3S,8S)-3-(4-Phenoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | 10 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)[C@@H](CC)C2=CC=CC=C2)C(=O)O)OC1 | C33H31NO5
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 8 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)N)=O
reactant | HOBt | 3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 0.009 mL | CN1CCOCC1 | C5H11NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EDC | 5 mg
product | (S)-3-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-2-{[(3S,8S)-3-(4-phenoxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid | 9 mg | CC1=NC=CC(=C1C)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OC3=CC=CC=C3)[C@@H](CC)C3=CC=CC=C3 | C49H47N3O6
